US08247403B2
(2) 9-isoxazol-4-yl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-isoxazol-4-yl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (120 mg, 0.379 mmol), ethyl acetate (2 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) was stirred at room temperature for 1 hr, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (13.3 mg, 13.9%) as a solid.

reactant | tert-butyl 9-isoxazol-4-yl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.379 mmol, 120 mg | O1N=CC(=C1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C17H20N2O4
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 9-isoxazol-4-yl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 13.3 mg, 13.9% | Cl.O1N=CC(=C1)C1=CC=CC=2CNCCOC21 | InChI=1S/C12H12N2O2.ClH/c1-2-9-6-13-4-5-15-12(9)11(3-1)10-7-14-16-8-10;/h1-3,7-8,13H,4-6H2;1H
